US08791132B2
5-(2-Chloro-2-(pyridin-3-yl)propyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (crude) (700 mg) was dissolved in DMF (4 mL). Sodium azide (975 mg, 15 mmol) was added and reaction mixture was stirred at 80° C. for 1 h. The reaction mixture was diluted with water, basified with aqueous NaHCO3 solution and was extracted with EtOAc (200 mL). The organic layer was washed with water (6×50 mL), dried over anhydrous sodium sulfate and evaporated in vacuo to obtain the crude product that was purified by reverse phase HPLC to obtain 1 mg of 5-(2-azido-2-(pyridin-3-yl)propyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole as the TFA salt. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.56 (m, 2H), 8.11 (dd, 1H), 7.6 (t, 1H), 7.2 (s, 1H), 6.85 (m, 2H), 4.67 (d, 1H), 4.47 (d, 1H), 4.39 (s, 2H), 3.84 (m, 1H), 3.48 (m, 1H), 3.34 (m, 1H), 3.12 (s, 3H), 3.12 (m, 1H), 2.36 (s, 3H), 2.03 (s, 3H). Separation by chiral HPLC provides enantiomers V-3a-b.

reactant | 5-(2-Chloro-2-(pyridin-3-yl)propyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 700 mg | ClC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)(C)C=2C=NC=CC2 | C21H24ClN3
reactant | Sodium azide | 15 mmol, 975 mg | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-azido-2-(pyridin-3-yl)propyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1 mg | N(=[N+]=[N-])C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)(C)C=2C=NC=CC2 | C21H24N6
